US04843075
To a mixture of 4.7 g of 2-(4-chlorophenyl)-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one 6-oxide in 150 ml of acetic acid is added 55 ml of 35% hydrogen peroxide dropwise with stirring at room temperature. After the completion of addition, the mixture is stirred at 40°-50° C. on a water bath for 4 hours and poured into an excess amount of water. The precipitated crystals are collected by filtration and recrystallized from 50% aqueous solution of acetic acid to give 2.9 g of 2-(4-chlorophenyl)-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one 6,6-dioxide, melting at 168°-170° C., as a colorless powder.

reactant | 2-(4-chlorophenyl)-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one 6-oxide | 4.7 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CS(C1=C2C=CC=C1)=O | C17H13ClN2O2S
reactant | hydrogen peroxide | 55 ml | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-(4-chlorophenyl)-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one 6,6-dioxide | 2.9 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CS(C1=C2C=CC=C1)(=O)=O | C17H13ClN2O3S
